US07319099B2
Preparation of {4-[2-Fluoro-4-(1-hydroxy-1-methyl-ethyl)-phenyl]-piperazin-1-yl}-(2-isopropoxy-5-methanesulfonyl-phenyl)-methanone
To a solution of 0.173 mmol 1-{3-Fluoro-4-[4-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone in tetrahydrofuran (2 ml) was added dropwise 0.190 mmol 1.6M Methyllithium solution in ether at −75° C. The mixture was stirred for 2 hours and then allowed to warm to 0° C. The mixture was quenched with a 20% NH4Cl solution and extracted 3 times with ethyl acetate. The combined extracts were dried over Na2SO4, filtered and the solvent was removed in vacuo. The residue was purified on silica, eluting with dichloromethane/MeOH to yield after evaporation the title compound.

reactant | 1-{3-Fluoro-4-[4-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone | 0.173 mmol | FC=1C=C(C=CC1N1CCN(CC1)C(C1=C(C=CC(=C1)S(=O)(=O)C)OC(C)C)=O)C(C)=O | C23H27FN2O5S
reactant | Methyllithium | 0.190 mmol, 1.6M | C[Li]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | {4-[2-Fluoro-4-(1-hydroxy-1-methyl-ethyl)-phenyl]-piperazin-1-yl}-(2-isopropoxy-5-methanesulfonyl-phenyl)-methanone | FC1=C(C=CC(=C1)C(C)(C)O)N1CCN(CC1)C(=O)C1=C(C=CC(=C1)S(=O)(=O)C)OC(C)C | C24H31FN2O5S
